US06313137B1
Synthesis of 2,3-dimethyl-8-(2,6-dimethylbenzylamino)-imidazo[1,2-a]pyridine-6-carboxamide
8-Amino-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxamide mesylate (4.0 g, 10.7 mmol), 2,6-diethylbenzylchloride (1.8 g, 9.9 mmol), diisopropylethylamin (3.0 g, 23.3 mmol) were stirred in dimethylformamide (20 ml) at 50° C. overnight and at 70° C. for 3 h. Water (60 ml) and methylene chloride were added and the organic layer was separated, dried and evaporated under reduced pressure. The residue was treated with diethyl ether and the product was filtred off to give 1.7 g (45%) of the title compound.

reactant | 8-Amino-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxamide mesylate | 10.7 mmol, 4.0 g | S(C)(=O)(=O)O.NC=1C=2N(C=C(C1)C(=O)N)C(=C(N2)C)C
reactant | 2,6-diethylbenzylchloride | 9.9 mmol, 1.8 g | C(C)C1=C(CCl)C(=CC=C1)CC | C11H15Cl
reactant | diisopropylethylamin | 23.3 mmol, 3.0 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | 60 ml | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2,3-dimethyl-8-(2,6-dimethylbenzylamino)-imidazo[1,2-a]pyridine-6-carboxamide | 1.7 g, 45% | CC=1N=C2N(C=C(C=C2NCC2=C(C=CC=C2C)C)C(=O)N)C1C | C19H22N4O
